US07745484B2
Step 1: 2-bromo-5-(methoxymethoxy)pyridine
To a solution of 6-bromopyridin-3-ol (25 g, 144 mmol) in DMF (300 mL) at 0° C. under N2 is added portionwise NaH (5.7 g, 144 mmol) over 5 min. The reaction was stirred 1 h, then chloro(methoxy)methane (12 g, 144 mmol) was added and the reaction stirred an additional 1 h at 0° C. Saturated sodium bicarbonate (500 mL) was added slowly and the suspension stirred 30 min and warmed to rt. The solution was extracted with EtOAc (3×400 mL), the combined organic layers washed with H2O (500 mL), saturated NaCl (500 mL), dried (Na2SO4), and concentrated in vacuo to give the title compound as a brown oil.

reactant | 6-bromopyridin-3-ol | 144 mmol, 25 g | BrC1=CC=C(C=N1)O | C5H4BrNO
reactant | NaH | 144 mmol, 5.7 g | [H-].[Na+]
reactant | chloro(methoxy)methane | 144 mmol, 12 g | ClCOC | C2H5ClO
reactant | sodium bicarbonate | 500 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 300 mL | CN(C)C=O | C3H7NO
product | 2-bromo-5-(methoxymethoxy)pyridine | BrC1=NC=C(C=C1)OCOC | C7H8BrNO2
